US07053212B2
Step B: Toluene-4-sulfonic 4-{[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-methyl}-phenyl ester
A solution of toluene-4-sulfonic acid 4-formyl-phenyl ester (3.28 g, 11.88 mmol) and 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (2.45 g, 11.88 mol) in 40 mL of methanol was stirred at room temperature overnight. The reaction mixture was concentrated to dryness. A portion of the crude residue (1.36 g, ˜2.92 mmol) was dissolved in 35 mL of ethanol and was treated with sodium borohydride (0.687 g, 18.16 mmol), which was added in portions over a period of about 3 hr. The reaction was stirred at room temperature overnight at which time it was concentrated to one-half of its original volume. To this mixture was added 25 mL of water and 25 mL of saturated sodium bicarbonate. The mixture was extracted three times with methylene chloride and the combined organic layers were dried (magnesium sulfate), filtered, and concentrated. Medium pressure silica gel chromatography of the residue (2% methanol/methylene chloride to 10% methanol/methylene chloride) afforded 1.06 g (80%) of the title compound. MS 467.1 (M+1)+

reactant | toluene-4-sulfonic acid 4-formyl-phenyl ester | 11.88 mmol, 3.28 g | C(=O)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C14H12O4S
reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 11.88 mol, 2.45 g | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | sodium borohydride | 18.16 mmol, 0.687 g | [BH4-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | Toluene-4-sulfonic 4-{[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-methyl}-phenyl ester | 1.06 g, 80% | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C26H30N2O4S
